US06770667B1
To a suspension of 6-fluoro-9H-carbazole-1-carboxylic acid (37 mg) and 3-(1,2-dimethylimidazol-5-yl)aniline (43 mg) in dichloromethane (1 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (53 mg) and 4-dimethylaminopyridine (11 mg), and the mixture was stirred for 40 hours. The mixture was diluted with dichloromethane and washed with water and brine. The mixture was dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified with a silica gel column chromatography eluting with 2-3% methanol/dichloromethane to give N-[3-(1,2-dimethylimidazol-5-yl)-phenyl]-6-fluoro-9H-carbazole-1-carboxamide (38 mg, 51.4%).

reactant | 6-fluoro-9H-carbazole-1-carboxylic acid | 37 mg | FC=1C=C2C=3C=CC=C(C3NC2=CC1)C(=O)O | C13H8FNO2
reactant | 3-(1,2-dimethylimidazol-5-yl)aniline | 43 mg | CN1C(=NC=C1C=1C=C(N)C=CC1)C | C11H13N3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 53 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 11 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[3-(1,2-dimethylimidazol-5-yl)-phenyl]-6-fluoro-9H-carbazole-1-carboxamide | 38 mg, 51.4% | CN1C(=NC=C1C=1C=C(C=CC1)NC(=O)C1=CC=CC=2C3=CC(=CC=C3NC12)F)C | C24H19FN4O
